US05317016
To a suspension of (2R,4R)-4-hydroxy-2-methoxycarbonylpyrrolidine hydrochloride (25.64 g: 125 mmole) in dichloromethane (125 ml), triethylamine (19.11 ml: 137.5 mmole) is added dropwise in a nitrogen atmosphere under ice cooling. The mixture is stirred for 5 minutes at room temperature. Then, a solution of di-t-butyl dicarbonate (34.11 g: 156.3 mmole) in dichloromethane (125 ml) is added dropwise, and the mixture is stirred for 40 minutes at room temperature to give (2R,4R)-1-t-butoxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine (26.85 g). Yield: 88%. Colorless crystals. NMR δ(CDCl3) ppm: 1.46(d, J=8.4 Hz, 9H), 2.0 to 2.2(m, 1H), 2.2 to 2.5(m, 1H), 3.4 to 3.8(m, 2H), 3.79(d, J=3.0 Hz, 3H), 4.2 to 4.5(m, 2H). IR ν (KBr) cm-1 : 3460, 1730, 1680.

reactant | (2R,4R)-4-hydroxy-2-methoxycarbonylpyrrolidine hydrochloride | 125 mmole, 25.64 g | Cl.O[C@@H]1C[C@@H](NC1)C(=O)OC
reactant | triethylamine | 137.5 mmole, 19.11 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 156.3 mmole, 34.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-t-butoxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine | 26.85 g, Yield: 88% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)OC | C11H19NO5
